US06924276B2
Step (e): Preparation of 3-aminoacetyl-1-(tert-butoxycarbonyl)-indole
To a stirred solution of 3-azidoacetyl-1-(tert-butoxycarbonyl)-indole (0.01 mol), which may be prepared as described in Step (d) above, in THF is added a reducing agent such as, for example, a catalytic amount (0.0001 to 0.001 mol) of a hydrogenolysis catalyst such as, for example, 10% palladium on carbon, and the mixture is shaken under a hydrogen atmosphere at from atmospheric pressure to about 75 psi. (Alternatively, other reducing agents such as lithium aluminum hydride may be used. Reaction work-up conditions may be modified according to the reduction reaction employed.) Reaction progress may be followed by TLC or HPLC. When a sufficient amount of desired product is formed, the mixture is filtered, optionally through a filter aid such as, for example, CELITE (Celite Products Company, Los Angeles, Calif.), and the filter cake is washed with additional solvent (THF). The filtrate and washings rotary evaporated to give 3-aminoacetyl-1-(tert-butoxycarbonyl)-indole, which may be purified, if needed or desired, by chromatography on silica gel or crystallization. Alternatively, the 3-aminoacetyl-1-(tert-butoxycarbonyl)-indole can be dissolved in ethyl ether, which optionally contains minor amounts (i.e., <50% v/v) of THF, and 1 mol equivalent of a solution of either hydrogen chloride in ethyl ether or concentrated hydrochloric acid is added. The solid 3-aminoacetyl-1-(tert-butoxycarbonyl)-indole hydrochloride which precipitates, or if little or no solid precipitates, the 3-aminoacetyl-1-(tert-butoxycarbonyl)-indole hydrochloride obtained upon rotary evaporation of the mixture, may be purified, if needed or desired, by crystallization.

reactant | 3-azidoacetyl-1-(tert-butoxycarbonyl)-indole | 0.01 mol | N(=[N+]=[N-])CC(=O)C1=CN(C2=CC=CC=C12)C(=O)OC(C)(C)C | C15H16N4O3
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | C1CCOC1 | C4H8O
catalyst | palladium on carbon | [Pd] | Pd
product | 3-aminoacetyl-1-(tert-butoxycarbonyl)-indole | NCC(=O)C1=CN(C2=CC=CC=C12)C(=O)OC(C)(C)C | C15H18N2O3
